Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope.
 
Major Surgical or Invasive Procedure:
Pacemaker placement.
Incision and drainage of fluid filled pustule.
 
History of Present Illness:
___ year old ___ female with CAD s/p NSTEMI, 
HTN, and HL presents from adult day care after being found 
unresponsive in her chair.  Per report she did not hit her head. 
 ___ done at the time was noted to be 106. 

Via the interpreter, she reports the sudden onset of dizziness 
with sitting which lasted <1 minute and was self limited.  She 
cannot tell me if the room was spinning or if she was going to 
pass out.  She reports that she remembers the entire event.  She 
denies any CP, SOB, or pain prior to the episode.  She denies 
any recent fevers, coughs, colds, dysuria, or diarrhea. 

On arrival to the ED, initial vitals were: T 96.4 HR 50 BP 
140/58 R 16 Sat 100% on RA. Exam: No acute distress, 
bradycardic, no JVD, lungs clear, nonfocal neuro exam.  EKG: 
afib, HR 47, LBBB (old), TWI in lead III.  Most recent vitals: 
98.1 53 140/67 14 100% on RA.
  
Currently, she reports no dizziness or any other current 
symptoms.
 
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
 
Past Medical History:
-HTN
-HL
-CAD s/p MI ___ s/p stenting of both the circumflex as well as 
right coronary artery 
-CHF with EF of 40%-45% 
-chronic LBBB
-thyroglossal duct cyst
-impaired fasting glucose
-Decreased hearing L>R 
-Possible TIA like symptoms described by family several years 
ago 
 
Social History:
___
Family History:
Aunt with CVD.  
 
Physical Exam:
Admission Exam: 
VS - 98.2 175/75 58 16 99% on RA   
GENERAL - NAD, comfortable, answering questions appropriately on 
the phone with the interpreter 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, JVD at 6mmHg
HEART - PMI non-displaced, bradycardic, occaisionally irregular, 
nl S1-S2, no MRG  
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, trace ___ edema, 2+ peripheral pulses 
(radials, DPs)  
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout

Discharge Exam: 
VS - 98.0 129/73 60 20 98% on RA 60kg
GENERAL - NAD, comfortable, answering questions appropriately 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, JVD at 6mmHg
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG, PPM in place 
with dress clean gauze dressing overlying it, mildly tender just 
below PPM
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no ___ edema, 2+ peripheral pulses  
SKIN - erythematous erosion on right upper shoulder without pus 
or surrounding erythema  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout
 
Pertinent Results:
LABS: 
___ 12:29PM BLOOD WBC-4.0 RBC-4.57 Hgb-14.8 Hct-43.5 MCV-95 
MCH-32.3* MCHC-33.9 RDW-12.8 Plt ___
___ 12:29PM BLOOD Neuts-49.2* ___ Monos-8.4 
Eos-4.1* Baso-1.6
___ 07:45AM BLOOD WBC-4.2 RBC-4.74 Hgb-15.3 Hct-44.3 MCV-94 
MCH-32.3* MCHC-34.5 RDW-12.8 Plt ___
___ 07:05AM BLOOD WBC-5.7 RBC-4.40 Hgb-14.3 Hct-40.8 MCV-93 
MCH-32.6* MCHC-35.2* RDW-12.7 Plt ___
___ 12:29PM BLOOD ___ PTT-28.0 ___
___ 06:45AM BLOOD ___ PTT-46.2* ___
___ 12:29PM BLOOD Glucose-150* UreaN-16 Creat-0.9 Na-140 
K-4.6 Cl-101 HCO3-29 AnGap-15
___ 06:45AM BLOOD Glucose-112* UreaN-14 Creat-0.8 Na-137 
K-3.7 Cl-97 HCO3-30 AnGap-14
___ 12:29PM BLOOD CK(CPK)-58
___ 12:29PM BLOOD CK-MB-3
___ 12:29PM BLOOD cTropnT-0.02*
___ 07:30PM BLOOD CK(CPK)-41
___ 07:30PM BLOOD CK-MB-2 cTropnT-0.03*
___ 07:45AM BLOOD CK(CPK)-40
___ 07:45AM BLOOD CK-MB-2 cTropnT-0.___ 12:29PM BLOOD Calcium-8.9 Phos-3.2 Mg-2.0
___ 07:45AM BLOOD Phos-3.2 Mg-1.8
___ 06:45AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.0
___ 07:05AM BLOOD WBC-5.7 RBC-4.40 Hgb-14.3 Hct-40.8 MCV-93 
MCH-32.6* MCHC-35.2* RDW-12.7 Plt ___

MICRO: none

IMAGING: 
___ CXR: Right atrial and right ventricular pacer leads 
follow their expected courses from the left axillary power pack. 
 There is no pneumothorax, pleural effusion, or mediastinal 
widening.  Mild cardiomegaly is unchanged, pulmonary vasculature 
is normal and there is no pleural effusion. 

___ CXR: Mild-to-moderate cardiomegaly unchanged, is 
exaggerated by narrow AP diameter of the chest.  Borderline 
pulmonary congestion not appreciably changed.  Lungs clear.  No 
pleural abnormality or evidence of central lymph node 
enlargement. 
 
Brief Hospital Course:
___ year old ___ female with CAD s/p NSTEMI, 
HTN, and HL who presents with report of unresponsive episode and 
personal report of dizziness. 
 
# Syncope/unresponsive episode: She has multiple levels of 
conduction disease with QT prolonged but less than 500, sinus 
bradycardia with episodes of arrest on telemetry, first degree 
AV block, and LBBB.  UA and CXR negative for infection.  Ruled 
out for MI.  EP study revealed disease at AV node, so dual 
chamber PPM was placed.  CXR revealed leads in place the next 
morning.  She was given vancomycin during her stay and was then 
discharged on bactrim and cephalexin for six more days of 
prophylactic antibiotics in light of the skin abscess below.  
She will follow up in device clinic in one week and with Dr. 
___ in one month.

# HTN: Typically hypertensive. She was euvolemic with creatinine 
at baseline. Her carvedilol was held until PPM was placed and 
then resumed after the procedure.  She was continued lisinopril, 
amlodipine, hctz, and aspirin.

# HL: Continued atorvastatin, ezetimibe, omega 3 fatty acids.

# Dementia: Donepezil was initially held and then restarted 
after PPM was placed.

# Small abscess on right upper shoulder: At the site of an 
electrode, s/p I&D on the day prior to discharge.  Extended abx 
course to include cephalexin and bactrim for six more days.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Carvedilol 12.5 mg PO BID 
4. Donepezil 5 mg PO HS 
5. Ezetimibe 10 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Lisinopril 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Carvedilol 12.5 mg PO BID 
5. Donepezil 5 mg PO HS 
6. Ezetimibe 10 mg PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Lisinopril 20 mg PO DAILY 
10. Acetaminophen 1000 mg PO Q8H 
Do not take more than 3grams per day. 
11. Cephalexin 500 mg PO Q6H Duration: 6 Days RX *cephalexin 500 
mg 1 tablet(s) by mouth every six (6) hours Disp #*24 Tablet 
Refills:*0
12. Sulfameth/Trimethoprim DS 2 TAB PO BID Duration: 6 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*24 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: first degree AV nodal blockade, sinus 
bradycardia with arrest, LBBB, dementia, hypertension, skin 
abscess
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you during your stay here at 
___.

You were admitted for an episode of unresponsiveness and you 
were found to have a slow conduction system in your heart.  A 
pacemaker was placed to help your heart beat normally at all 
times and prevent any further unresponsive episodes.  You will 
need to take antibiotics after the procedure to prevent 
infection.

In addition, there was a large pimple on your right shoulder 
which was called an abscess.  This was opened and drained but 
will require a longer course of antibiotics.

You will need to follow up in device clinic in one week.  In 
addition, please do not lift your arm above your head for 6 
weeks and do not lift anything heavy with your right arm.
 
Followup Instructions:
___